US06232290B1
A solution of methyl 4-[4′-(3-bromopropyoxy)phenyl]benzoate (1.5 g), potassium carbonate (1.2 g) and cis-2,6-dimethylmorpholine (990.6 mg) in N,N-dimethyformamide was stirred for 15 hours at room temperature, then diluted with ethyl acetate and washed with water (5x), dried over magnesium sulfate, evaporated, then purified by silica gel chromatography (20:1 dichloromethane-ethanol elution) to give methyl 4-[4′-[3-(2,6-dimethylmorpholino)propoxy]phenyl]benzoate (755 mg).

reactant | methyl 4-[4′-(3-bromopropyoxy)phenyl]benzoate | 1.5 g | BrCCCOC1=CC=C(C=C1)C1=CC=C(C(=O)OC)C=C1 | C17H17BrO3
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | cis-2,6-dimethylmorpholine | 990.6 mg | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
solvent | N,N-dimethyformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-[4′-[3-(2,6-dimethylmorpholino)propoxy]phenyl]benzoate | 755 mg | CC1OC(CN(C1)CCCOC1=CC=C(C=C1)C1=CC=C(C(=O)OC)C=C1)C | C23H29NO4
